US08084448B2
C. 2-Benzyloxy-4-bromomethyl-1-nitrobenzene
To a stirred solution of (3-benzyloxy-4-nitrophenyl)-methanol (11.0 g, 0.042 mol) in anhydrous THF is added triethylamine (8.7 g, 0.86 mol). The mixture is cooled to −20° C., followed by the addition of methanesulfonyl chloride (5.8 g, 0.051 mol) and then stirred at −20° C. for 45 min. To this mixture is added lithium bromide (37.3 g, 0.43 mol) in anhydrous THF (40 mL) over 40 min followed by stirring at RT for 2 h. The suspension is concentrated under reduced pressure and diluted with EtOAc and water. The organic phase is washed with brine, dried over MgSO4, filtered and concentrated to afford the title compound as a yellow solid.

reactant | (3-benzyloxy-4-nitrophenyl)-methanol | 0.042 mol, 11.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CO | C14H13NO4
reactant | triethylamine | 0.86 mol, 8.7 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.051 mol, 5.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 0.43 mol, 37.3 g | [Br-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Benzyloxy-4-bromomethyl-1-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CBr)[N+](=O)[O-] | C14H12BrNO3
